US07759373B2
A mixture of ethyl 3-amino-4-(5-chlorothiophen-2-yl)-4-oxobutyrate hydrochloride (596 mg), 4-fluorobenzoyl chloride (380 mg) and sodium hydrogen carbonate (1.0 g) in ethyl acetate (10 ml) and water (10 ml) was stirred at room temperature for 2 hours. To the reaction mixture were added ethyl acetate (30 ml) and water (30 ml), and the organic layer was collected. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure. The resulting residue was triturated with hexane to obtain a crude product of ethyl 4-(5-chlorothiophen-2-yl)-3-[(4-fluorobenzoyl)amino]-4-oxobutyrate (732 mg) as colorless powder.

reactant | ethyl 3-amino-4-(5-chlorothiophen-2-yl)-4-oxobutyrate hydrochloride | 596 mg | Cl.NC(CC(=O)OCC)C(=O)C=1SC(=CC1)Cl
reactant | 4-fluorobenzoyl chloride | 380 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | sodium hydrogen carbonate | 1.0 g | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(5-chlorothiophen-2-yl)-3-[(4-fluorobenzoyl)amino]-4-oxobutyrate | 732 mg | ClC1=CC=C(S1)C(C(CC(=O)OCC)NC(C1=CC=C(C=C1)F)=O)=O | C17H15ClFNO4S
